US07982044B2
(Step 1) Using 2-bromo-5-chlorobenzonitrile and imidazolidin-2-one, and in the same manner as in the Example 35, Steps 1 to 3, 1-[2-(aminomethyl)-4-chlorophenyl]imidazolidin-2-one hydrochloride was obtained.

reactant | 2-bromo-5-chlorobenzonitrile | BrC1=C(C#N)C=C(C=C1)Cl | C7H3BrClN
reactant | imidazolidin-2-one | N1C(NCC1)=O | C3H6N2O
product | 1-[2-(aminomethyl)-4-chlorophenyl]imidazolidin-2-one hydrochloride | Cl.NCC1=C(C=CC(=C1)Cl)N1C(NCC1)=O | InChI=1S/C10H12ClN3O.ClH/c11-8-1-2-9(7(5-8)6-12)14-4-3-13-10(14)15;/h1-2,5H,3-4,6,12H2,(H,13,15);1H
